US05821240
4-Amino-1-benzyl-4-methylpiperidine
39.4 g of 4-acetylamino-1-benzyl-4-methylpiperidine are heated to boiling in 400 ml of concentrated hydrochloric acid for 3 days. After evaporation to half the volume in a rotary evaporator, the pH is adjusted to 12 with 50% strength sodium hydroxide solution while cooling. The mixture is extracted three times with methylene chloride. The combined organic phases are then dried over sodium sulphate, and the solvent is distilled off in a rotary evaporator. The residue is employed without further purification in the next reaction.

reactant | 4-acetylamino-1-benzyl-4-methylpiperidine | 39.4 g | C(C)(=O)NC1(CCN(CC1)CC1=CC=CC=C1)C | C15H22N2O
solvent | hydrochloric acid | 400 ml | Cl | ClH
product | 4-Amino-1-benzyl-4-methylpiperidine | NC1(CCN(CC1)CC1=CC=CC=C1)C | C13H20N2
